US09062070B2
To a 1 L 3-neck was charged trifluoromethanesulfonic acid 4-methyl-1-oxo-1,3-dihydro-isobenzofuran-5-yl ester (63.0 g, 213 mmol), DMF (315 mL), butyl vinyl ether (138 mL, 1063 mmol) then Et3N (35.6 mL, 255 mmol). The solution was sparged with N2 for 20 min. To the solution was added Pd(OAc)2 (1.19 g., 5.32 mmol) and DPPP (2.41 g., 5.85 mmol) and sparged for an additional 10 min then heated to 80° C. After a 1 hr age, the solution was cooled to <10° C. then quenched with 630 mL EtOAc and washed with 5% NH4Cl (2×315 mL), 10% brine (2×315 mL), dried over MgSO4, filtered, concentrated by rotary evaporation and flushed with EtOAc (3×100 mL) to remove excess butyl vinyl ether, providing crude 5-(1-butoxy-vinyl)-4-methyl-3H-isobenzofuran-1-one.

reactant | trifluoromethanesulfonic acid 4-methyl-1-oxo-1,3-dihydro-isobenzofuran-5-yl ester | 213 mmol, 63.0 g | CC1=C2COC(C2=CC=C1OS(=O)(=O)C(F)(F)F)=O | C10H7F3O5S
reactant | butyl vinyl ether | 1063 mmol, 138 mL | C(=C)OCCCC | C6H12O
reactant | Et3N | 255 mmol, 35.6 mL | CCN(CC)CC | C6H15N
reactant | DPPP | 5.85 mmol, 2.41 g | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
catalyst | Pd(OAc)2 | 5.32 mmol, 1.19 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 315 mL | CN(C)C=O | C3H7NO
product | 5-(1-butoxy-vinyl)-4-methyl-3H-isobenzofuran-1-one | C(CCC)OC(=C)C=1C(=C2COC(C2=CC1)=O)C | C15H18O3
